US07842685B2
Synthesis of N-(3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)-benzyl)glycine
Ethyl 2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)-benzylamino)acetate (80 mg, 0.173 mmol) was dissolved in THF (1.4 mL) and water (347 μL) before lithium hydroxide monohydrate (21.82 mg, 0.520 mmol) was added and stirred at ambient temperature for 16 h. The reaction mixture was concentrated, acidified to pH 7 with 1 N HCl, filtered, and washed with water, DMSO, then water, and dried in a vacuum oven to give the title compound. MS (ESI) m/z: Calculated: 433.1; Observed: 433.8 (M++H).

reactant | Ethyl 2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)-benzylamino)acetate | 0.173 mmol, 80 mg | FC=1C=C(CNCC(=O)OCC)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C26H24FN3O2S
reactant | water | 347 μL | O | H2O
reactant | lithium hydroxide monohydrate | 0.520 mmol, 21.82 mg | O.[OH-].[Li+]
solvent | THF | 1.4 mL | C1CCOC1 | C4H8O
product | N-(3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)-benzyl)glycine | FC=1C=C(CNCC(=O)O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C24H20FN3O2S
